US20010027196A1
5-Bromo-4-furan-2-yl-6-phenethylsulfanyl-pyrimidin-2-yl-amine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-ylamine, phenethylmercaptan and DBU in THF. ES-MS m/e (%): 378 (M{81Br}+H+, 100), 376 (M {79Br}+H+, 99).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-ylamine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | phenethylmercaptan | C(CC1=CC=CC=C1)S | C8H10S
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | C1CCOC1 | C4H8O
product | 5-Bromo-4-furan-2-yl-6-phenethylsulfanyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1SCCC1=CC=CC=C1)N)C=1OC=CC1 | C16H14BrN3OS
